US05633379
2.2 g (5.31 mmol) of 4,6-dichloro-N-[3-(pyrimidin-5-yl)-propylthio]acetyl-anthranilic acid methyl ester are placed in 25 ml of tetrahydrofuran at 0° under nitrogen. 10.62 ml of a 1-molar tetrahydrofuran solution of sodium bis-trimethylsilylamide are added dropwise thereto. The mixture is then stirred for 2 hours at 0°. The reaction mixture is poured into 50 ml of 2N hydrochloric acid/ice and filtered. The residue is taken up in a small amount of ethyl acetate, and hexane is added until precipitation begins. The precipitate formed is filtered off with suction, washed with hexane and dried. 1.75 g (86.2% of theory) of 5,7-dichloro-4-hydroxy-3-[3-(pyrimidin-5-yl)propylthio)-2-(1H)-quinolone are obtained in the form of red crystals having a melting point of 252°-254°.

reactant | 4,6-dichloro-N-[3-(pyrimidin-5-yl)-propylthio]acetyl-anthranilic acid methyl ester | 5.31 mmol, 2.2 g | COC(C=1C(NC(CSCCCC=2C=NC=NC2)=O)=CC(=CC1Cl)Cl)=O | C17H17Cl2N3O3S
reactant | sodium bis-trimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1-molar | O1CCCC1 | C4H8O
product | 5,7-dichloro-4-hydroxy-3-[3-(pyrimidin-5-yl)propylthio)-2-(1H)-quinolone | 1.75 g, 86.2% | ClC1=C2C(=C(C(NC2=CC(=C1)Cl)=O)SCCCC=1C=NC=NC1)O | C16H13Cl2N3O2S
